US07109186B2
Compound 864: 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (4-fluoro-2-trifluoromethyl-benzyl)-methoxy-amide
Reaction of 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-(4-fluoro-2-trifluoromethyl-benzyl)-N-methoxy-acetamide (0.21 g, 0.55 mmol) with the paraformaldehyde-N-(2-aminoethyl)morpholine adduct in methanol using a procedure similar to the one described in the preparation of compound 13 gave 0.13 g (50% yield) of the title compound as a solid after chromatography on reversed phase silica gel. 1HNMR 400 MHz (CDCl3) δ (ppm); 2.51 (4H, m, 2×NCH2), 2.60 (2H, t, J=6.1 Hz, NCH2), 3.65 (6H, m, 2×OCH2 and NCH2), 3.71 (3H, s, OCH3), 4.32 (2H, s, NCH2), 5.09 (2H, s, NCH2), 7.23–7.27 (2H, m, aromatics), 7.39–7.48 (2H, m, aromatics). MS (ESI+) calculated for C20H24F4N3O5: [M+H]+: 462. found: 462.

reactant | 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-(4-fluoro-2-trifluoromethyl-benzyl)-N-methoxy-acetamide | 0.55 mmol, 0.21 g | CC1(OC(C(O1)=CC(=O)N(OC)CC1=C(C=C(C=C1)F)C(F)(F)F)=O)C | C16H15F4NO5
reactant | paraformaldehyde N-(2-aminoethyl)morpholine | C=O.NCCN1CCOCC1
solvent | methanol | CO | CH4O
product | 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (4-fluoro-2-trifluoromethyl-benzyl)-methoxy-amide | 0.13 g, 50% yield | FC1=CC(=C(CN(C(=O)C=2CN(C(C2O)=O)CCN2CCOCC2)OC)C=C1)C(F)(F)F | C20H23F4N3O5
